US08802661B2
Preparation of (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid. Intermediate 6
To solution of (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-tert-butyldimethylsilyl 9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (3.12 g, 4.54 mmol) in Dioxane (25 mL) was added TBAF (75% wt in water) (2.375 g, 6.81 mmol). The mixture was stirred at rt for 4 h then was diluted with 1N HCl (25 mL) and water (5 mL) and extracted with dichloromethane (3×100 mL). The combined organic layers were dried with Na2SO4, filtered, and partially concentrated under reduced pressure to about 10 mL volume. To the partially concentrated mixture was added 1N HCl (50 mL). The solids that formed were collected by filtration and were washed with water. The expected product, (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid (2.58 g, 4.50 mmol, 99% yield), was isolated as a white solid. LCMS: m/e 571.47 (M−H)−, 3.60 min (method 1). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 9.80 (br. s., 1H), 7.92 (d, J=8.24 Hz, 2H), 7.18 (d, J=8.24 Hz, 2H), 5.32-5.26 (m, 1H), 4.75 (s, 1H), 4.62 (br. s., 1H), 3.90 (s, 3H), 3.07-2.99 (m, 1H), 2.33-2.21 (m, 2H), 2.10 (dd, J=17.09, 6.10 Hz, 1H), 2.06-1.94 (m, 2H), 1.70 (s, 3H), 1.01 (br. s., 3H), 1.00 (br. s., 3H), 0.98 (s, 3H), 0.91 (s, 6H), 1.79-0.89 (m, 17H).

reactant | (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-tert-butyldimethylsilyl 9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 4.54 mmol, 3.12 g | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C44H66O4Si
reactant | TBAF | 6.81 mmol, 2.375 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | Dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 1N, 25 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
product | (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | 4.50 mmol, 2.58 g, 99% yield | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)O)C)C)(C)C | C38H52O4
